US08471005B2
Palladium Acetate (0.017 g, 0.000077 mol) and Triphenylphosphine (0.025 g, 0.000097 mol) were dissolved in Tetrahydrofuran (1.2 mL, 0.014 mol) and the mixture was allowed to stir at room temperature for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.125 g, 0.000323 mol) was then added and the reaction was again allowed to stir for 10 minutes. N-methyl-3-boronobenzenesulfonamide (0.166 g, 0.000775 mol) was added followed by 0.9 M of Sodium carbonate in water (0.9 mL, 0.0008 mol) and Ethanol (1.2 mL, 0.020 mol). The reaction mixture was then heated at 80° C. and was allowed to stir overnight. The reaction mixture was poured over saturated sodium chloride, and organics were extracted with ethyl acetate. Combined organics were dried over sodium sulfate, filtered and reduced en vacuo. The crude mixture was purified by Gilson prep HPLC to afford 38.12 mg of N-Methyl-3-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide as a lyophilized powder. (M+H)=478.1. 1H NMR (400 MHz, DMSO, d6) δ 9.74 (s, 1H), 9.40 (s, 1H), 9.02 (s, 1H), 8.53 (s, 1H), 8.40 (m, 1H), 7.76 (m, 2H), 7.68 (m, 2H), 7.55 (m, 1H), 7.19 (d, 1H, J=4.28 Hz), 7.04 (m, 1H), 6.98 (d, 1H, J=4.32 Hz), 3.72 (m, 2H), 3.53 (m, 2H), 3.20 (m, 2H), 2.94 (m, 2H), 2.91 (s, 3H), 2.40 (s, 3H).

reactant | Triphenylphosphine | 0.000097 mol, 0.025 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Tetrahydrofuran | 0.014 mol, 1.2 mL | O1CCCC1 | C4H8O
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.000323 mol, 0.125 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | N-methyl-3-boronobenzenesulfonamide | 0.000775 mol, 0.166 g | CNS(=O)(=O)C1=CC(=CC=C1)B(O)O | C7H10BNO4S
reactant | Sodium carbonate | 0.9 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.0008 mol, 0.9 mL | O | H2O
reactant | Ethanol | 0.020 mol, 1.2 mL | C(C)O | C2H6O
reactant | sodium chloride | [Cl-].[Na+]
catalyst | Palladium Acetate | 0.000077 mol, 0.017 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-Methyl-3-{2-[4-(4-methyl-piperazin-1-yl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | 38.12 mg | CNS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C24H27N7O2S
